US06140351
To a solution of N-(4-chlorophenyl)-2-amino-5-methylbenzamide (0.11 g, 0.42 mmol) in pyridine (5 mL) at 0° C. was added 2-chlorocarbonyl-3-chlorobenzo[b]thiophene (0.15 g, 0.64 mmol), and the mixture allowed to warm to ambient temperature with stirring. After 16 hours, the mixture was poured onto water (5 mL) and the resulting white solid collected by filtration and dried in vacuo. Recrystallization from acetonitrile afforded 0.095 g (50% yield) of N-(4-chlorophenyl)-2-[((3-chlorobenzo[b]thien-2-yl)carbonyl)amino]-5-methylbenzamide, as a white crystalline solid; NMR (DMSO-d6 /TFA) 11.4 (s, 1), 10.7 (s, 1), 8.2 (d, 1), 7.4-8.2 (m, 10), 2.4 (s, 3) ppm.

reactant | N-(4-chlorophenyl)-2-amino-5-methylbenzamide | 0.42 mmol, 0.11 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C)N)=O | C14H13ClN2O
reactant | 2-chlorocarbonyl-3-chlorobenzo[b]thiophene | 0.64 mmol, 0.15 g | ClC(=O)C1=C(C2=C(S1)C=CC=C2)Cl | C9H4Cl2OS
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-chlorophenyl)-2-[((3-chlorobenzo[b]thien-2-yl)carbonyl)amino]-5-methylbenzamide | 0.095 g, 50% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C)NC(=O)C1=C(C2=C(S1)C=CC=C2)Cl)=O | C23H16Cl2N2O2S
